US07579353B2
2-(4-trifluoromethylphenyl)-5-(tributylstannyl)pyrimidine
n-BuLi 2.0M (ALDRICH, 0.18 ml) was added dropwise, with vigorous stirring, to a solution of 5-bromo-2-(4-trifluoromethylphenyl)pyrimidine (60 mg) in THF (2 ml) at −78° C. After stirring for 1 hour, tributyltin chloride (97 μl) was added dropwise at −78° C., under argon atmosphere. After 1 hour 30 minutes at −78° C., the reaction was quenched with 1 N NH4Cl (5 ml), diluted, extracted with ethyl acetate (3×10 ml), washed with brine, dried over MgSO4, concentrated under vacuum and purified by chromatography column using CH2Cl2-hexane 1:8 as eluent to give 75 mg of the desired product as a colorless oil.

reactant | n-BuLi | 2.0M, 0.18 ml | [Li]CCCC
reactant | 5-bromo-2-(4-trifluoromethylphenyl)pyrimidine | 60 mg | BrC=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F | C11H6BrF3N2
reactant | tributyltin chloride | 97 μl | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-(4-trifluoromethylphenyl)-5-(tributylstannyl)pyrimidine | 75 mg | FC(C1=CC=C(C=C1)C1=NC=C(C=N1)[Sn](CCCC)(CCCC)CCCC)(F)F | InChI=1S/C11H6F3N2.3C4H9.Sn/c12-11(13,14)9-4-2-8(3-5-9)10-15-6-1-7-16-10;3*1-3-4-2;/h2-7H;3*1,3-4H2,2H3;
